US05180723
A solution of isovaleraldehyde (5.0 g, 58 mmol) in a dry THF (15 ml) was added to a stirred 2M THF solution of n-butylmagnesium chloride (30 ml, 60 mmol) at 0° C. under argon. The mixture was allowed to warm up to room temperature and was stirred overnight. The reaction was quenched by the addition of aqueous ammonium chloride (50 ml) and extracted with diethyl ether (200 ml). The organic extracts were dried over anhydrous potassium carbonate, filtered and concentrated to give 2-methyloctan-4-ol (6.4 g, 77%) as a clear oil.

reactant | isovaleraldehyde | 58 mmol, 5.0 g | C(CC(C)C)=O | C5H10O
reactant | n-butylmagnesium chloride | 60 mmol, 30 ml | C(CCC)[Mg]Cl
solvent | THF | 2M | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-methyloctan-4-ol | 6.4 g, 77% | CC(C)CC(CCCC)O | C9H20O
